US05814631
Synthesis of 6-chloro-3-(4-chlorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 34)
630 mg (2.90 mmol) of 4-chlorobenzenesulfonylisocyanate and 500 mg (2.92 mmol) of 2-amino-5-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 520 mg of the above-identified compound (yield 47.9%). Properties; colorless crystal, Melting point: 223°-225° C., PMR (δppm, DMSO-d6): 7.11 (1H,d), 7.69 (1H,q), 7.78 (3H,m), 8.15 (2H,d), 11.67 (1H,s).

reactant | 4-chlorobenzenesulfonylisocyanate | 2.90 mmol, 630 mg | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-5-chlorobenzoic acid | 2.92 mmol, 500 mg | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
product | 6-chloro-3-(4-chlorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 520 mg, yield 47.9% | ClC=1C=C2C(N(C(NC2=CC1)=O)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C14H8Cl2N2O4S
